US06858651B2
In analogy to examples 31.5 and 31.6, trans-Methanesulfonic acid 4-(4-methylamino-cyclohexyl)-butyl ester-trifluoro-acetic acid and 4-trifluoromethyl-phenyl-sulfonylchloride were reacted, followed by treatment with 2-ethylamino-ethanol to give trans-N-(4-{4-[Ethyl-(2-hydroxy-ethyl)-amino]-butyl}-cyclohexyl)-N-methyl-4-trifluoromethyl-benzenesulfonamide, MS: 465 (MH+).

reactant | trans-Methanesulfonic acid 4-(4-methylamino-cyclohexyl)-butyl ester trifluoro-acetic acid | CN[C@@H]1CC[C@H](CC1)CCCCOS(=O)(=O)C.FC(C(=O)O)(F)F
reactant | 4-trifluoromethyl-phenyl-sulfonylchloride | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | 2-ethylamino-ethanol | C(C)NCCO | C4H11NO
product | trans-N-(4-{4-[Ethyl-(2-hydroxy-ethyl)-amino]-butyl}-cyclohexyl)-N-methyl-4-trifluoromethyl-benzenesulfonamide | C(C)N(CCCC[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)CCO | C22H35F3N2O3S
